US07786165B2
1-oxo-2,3-dihydro-1H-inden-4-yl trifluoromethanesulfonate
To an ice-cooled solution of 4-hydroxyindan-1-one (15.0 g, 101 mmol) in pyridine (150 mL) was added dropwise trifluoromethanesulfonic anhydride (34.3 g, 121 mmol). The mixture was stirred at room temperature for 16 hr, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-45% ethyl acetate/hexane) to give the title compound (26.0 g, yield 92%) as a colorless oil.

reactant | 4-hydroxyindan-1-one | 101 mmol, 15.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | trifluoromethanesulfonic anhydride | 121 mmol, 34.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 1-oxo-2,3-dihydro-1H-inden-4-yl trifluoromethanesulfonate | 26.0 g, yield 92% | FC(S(=O)(=O)OC1=C2CCC(C2=CC=C1)=O)(F)F | C10H7F3O4S
